US06403791B1
4-Difluoromethoxy-2-ethylbenzooxazole-7-carboxylic acid
Palladium(II) acetate (54 mg), 1,3-bis(diphenylphosphino)propane (198 mg) and triethylamine (3.3 ml) were added to a solution of 7-bromo-4-difluoromethoxy-2-ethylbezooxazole (0.7 g) in THF/water (30 ml/15 ml). The mixture was heated at 90° C. under 100 psi of carbon monoxide for 4 days. The reaction mixture was allowed to cool to room temperature and the pressure released. The THF was removed in vacuo and the residue diluted with water (10 ml) and washed with ethyl acetate (50 ml). The aqueous layer was acidified to pH 3 with 2N hydrochloric acid and extracted with ethyl acetate (150 ml). Separation of the organic layer, drying over magnesium sulphate, filtering and removal of the solvent in vacuo afforded the title compound as an off-white solid (0.47 g).

reactant | 1,3-bis(diphenylphosphino)propane | 198 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | triethylamine | 3.3 ml | C(C)N(CC)CC | C6H15N
reactant | 7-bromo-4-difluoromethoxy-2-ethylbezooxazole | 0.7 g | BrC1=CC=C(C=2N=C(OC21)CC)OC(F)F | C10H8BrF2NO2
reactant | carbon monoxide | [C]=O | CO
reactant | THF water | 30 ml | C1CCOC1.O
catalyst | Palladium(II) acetate | 54 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-Difluoromethoxy-2-ethylbenzooxazole-7-carboxylic acid | 0.47 g | FC(OC1=CC=C(C2=C1N=C(O2)CC)C(=O)O)F | C11H9F2NO4
